US05929067
(g) 5-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid ethyl ester
1.16 ml (8.32 mmol) of triethylamine and then a solution of 947 mg (2.38 mmol) of 6-(1H-indol-3-yl)-5-methylamino-hexanoic acid ethyl ester trifluoracetic acid salt in 10 ml of tetrahydrofuran are added dropwise at 0° C. in the course of 30 minutes to a solution of 0.49 ml (2.61 mmol) of 97% 3,5-bistrifluoromethyl-benzoyl chloride in 10 ml of tetrahydrofuran. The mixture is stirred at room temperature for 18 hours, then filtered and washed with 10 ml of tetrahydrofuran. The filtrate is concentrated by evaporation and diethyl ether is added. The mixture is then filtered over silica gel and the filtrate is concentrated by evaporation. The title compound is obtained in the form of a brown oil. MS (EI): 528 (M+.), 483, 398, 257, 241, 130. TLC: ethyl acetate, Rf =0.66.

reactant | triethylamine | 8.32 mmol, 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(1H-indol-3-yl)-5-methylamino-hexanoic acid ethyl ester trifluoracetic acid salt | 2.38 mmol, 947 mg | FC(C(=O)O)(F)F.C(C)OC(CCCC(CC1=CNC2=CC=CC=C12)NC)=O
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | 2.61 mmol, 0.49 ml | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid ethyl ester | C(C)OC(CCCC(CC1=CNC2=CC=CC=C12)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C26H26F6N2O3
